US07259183B2
Preparation of 5,6-Difluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-phenethyl-amide 118
87 mg (0.44 mol) of 5,6-difluoro-1H-indol-7-carboxylic acid, 106 mg (0.40 mmol) of (4-tert-butyl-benzyl)-[2-phenyl-ethyl]-amine and 84 mg (0.44 mmol) of EDC.HCl were dissolved in 4 ml DCM. The reaction mixture was stirred at rt over night. The solvent was evaporated and the residue was purified by column chromatography (20 g silica gel; heptane/EtOAc 4:1) to yield 59 mg (33%) product as a colorless viscous oil. MS (ISP) 447.2 (M+H)+.

reactant | 5,6-difluoro-1H-indol-7-carboxylic acid | 0.44 mol, 87 mg | FC=1C=C2C=CNC2=C(C1F)C(=O)O | C9H5F2NO2
reactant | (4-tert-butyl-benzyl)-[2-phenyl-ethyl]-amine | 0.40 mmol, 106 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC=CC=C2)C=C1 | C19H25N
reactant | EDC.HCl | 0.44 mmol, 84 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 5,6-Difluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-phenethyl-amide | 59 mg, 33% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C(=C(C=C3C=CNC23)F)F)CCC2=CC=CC=C2)C=C1 | C28H28F2N2O
